US09263681B2
1-Phenyl-2-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)-1H-benzo[d]imidazole (Compound 2)
A mixture of 2-(5-bromopyridin-2-yl)-1-phenyl-1H-benzo[d]imidazole (1.015 g, 2.9 mmol), bis(pinacolato)diboron (0.76 g, 3 mmol), KOAc (0.49 g, 5 mmol) and Pd(dppf)Cl2 (0.11 g, 0.15 mmol) in dioxane (50 mL) was degassed and heated at about 80° C. for about 15 hours. The whole was worked up with dichloromethane/brine. The organic phase was collected and dried over Na2SO4. After removal of solvent, the resulting brown oil (Compound 2) was used for next step without further purification.

reactant | 2-(5-bromopyridin-2-yl)-1-phenyl-1H-benzo[d]imidazole | 2.9 mmol, 1.015 g | BrC=1C=CC(=NC1)C1=NC2=C(N1C1=CC=CC=C1)C=CC=C2 | C18H12BrN3
reactant | bis(pinacolato)diboron | 3 mmol, 0.76 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 5 mmol, 0.49 g | CC(=O)[O-].[K+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.15 mmol, 0.11 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Phenyl-2-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)-1H-benzo[d]imidazole | C1(=CC=CC=C1)N1C(=NC2=C1C=CC=C2)C2=NC=C(C=C2)B2OC(C(O2)(C)C)(C)C | C24H24BN3O2
